US05278326
Step C: Preparation of N-(2,6-bis(1-methylethyl)phenyl]-β-oxo-δ-phenyl-benzene-pentanamide
The title compound, mp 146°-148° C., was prepared from 4,4-diphenylbutan-2-one (3.50 g, 0.015 mol), 2.6-diisopropylphenyl isocyanate (3.17 g, 0.015 mol) and lithium diisopropylamide (0.015 mol) using the procedure described in Example 1.

reactant | 4,4-diphenylbutan-2-one | 0.015 mol, 3.50 g | C1(=CC=CC=C1)C(CC(C)=O)C1=CC=CC=C1 | C16H16O
reactant | 2.6-diisopropylphenyl isocyanate | 0.015 mol, 3.17 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
reactant | lithium diisopropylamide | 0.015 mol | C(C)(C)[N-]C(C)C.[Li+]
product | N-(2,6-bis(1-methylethyl)phenyl]-β-oxo-δ-phenyl-benzene-pentanamide | CC(C)C1=C(C(=CC=C1)C(C)C)NC(CC(CC(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C29H33NO2
